US04433132
Part A.--Preparation of 2,2'-bis(trifluoromethyl)-4,4'-diiodobiphenyl
Ten grams of 2,2'-bis(trifluoromethyl)-benzidine (0.0312 mole) were dissolved in water (100 mls.) and concentrated sulfuric acid (60 mls.) and the solution was cooled to 0° C. A solution of sodium nitrite (4.5 grams; 0.0652 mole) in water (ten mls.) was added dropwise with stirring. The resulting cold tetrazonium salt solution was added slowly to a stirred solution of sodium iodide (20 grams) and iodine (20 grams) in water (20 mls.) maintained at a temperature of 0° C. During the addition, methylene dichloride was added to keep the product in solution. After stirring the mixture overnight at room temperature, excess iodine was destroyed by adding sodium bisulfite and the product was extracted with methylene dichloride. The organic phase was washed with aqueous sodium bisulfite, dried and evaporated to yield 13.3 grams (78%) of product, i.e., 2,2'-bis(trifluoromethyl)-4,4'-diiodobiphenyl, having a melting point of 119°-122° C. Recrystallization from methanol yielded white prisms having a melting point of 121°-123° C.

reactant | 2,2'-bis(trifluoromethyl)-benzidine | 0.0312 mole, Ten grams | FC(C1=C(C=CC(=C1)N)C1=C(C=C(N)C=C1)C(F)(F)F)(F)F | C14H10F6N2
reactant | sulfuric acid | 60 mls | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 0.0652 mole, 4.5 grams | N(=O)[O-].[Na+]
reactant | sodium iodide | 20 grams | [I-].[Na+]
reactant | iodine | 20 grams | II | I2
solvent | water | 100 mls | O | H2O
solvent | water | ten mls | O | H2O
solvent | water | 20 mls | O | H2O
solvent | methylene dichloride | C(Cl)Cl | CH2Cl2
product | 2,2'-bis(trifluoromethyl)-4,4'-diiodobiphenyl | 13.3 grams, 78% | FC(C1=C(C=CC(=C1)I)C1=C(C=C(C=C1)I)C(F)(F)F)(F)F | C14H6F6I2
